US08937183B2
Synthesis of 8-benzyl-2-(furan-2-ylmethyl)-6-phenyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)imidazo[1,2-a]pyrazin-3(2H)-one.
To a solution of 8-benzyl-2-(furan-2-ylmethyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one, 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, potassium carbonate and potassium iodide (33 mg, 0.20 mmol) is added. The reaction mixture is stirred at room temperature and is heated to 40° C. until HPLC shows the completion of the reaction.

reactant | 8-benzyl-2-(furan-2-ylmethyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)CC=2OC=CC2)=O | C24H19N3O2
reactant | 2-(4-(bromomethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.20 mmol, 33 mg | [I-].[K+]
product | 8-benzyl-2-(furan-2-ylmethyl)-6-phenyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl)imidazo[1,2-a]pyrazin-3(2H)-one | C(C1=CC=CC=C1)C=1C=2N(C=C(N1)C1=CC=CC=C1)C(C(N2)(CC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)CC=2OC=CC2)=O | C37H36BN3O4
